* NMOS Transistors
M1 4 7 4 4 NMOS
M2 8 4 4 4 NMOS
M7 3 4 3 3 NMOS
M8 3 4 3 3 NMOS
* PMOS Transistors
M3 6 4 2 2 PMOS
M4 4 4 6 6 PMOS
M5 2 2 2 5 PMOS
M6 5 5 6 6 PMOS
* Current Sources
I0 4 3 DC 0
? Missing component
* Resistor
R1 5 5 1k
* Voltage source for ground reference
V0 4 0 DC 0
